US04299821
24.0 g (66.5 mmoles) of Z-Ile-Pro-NH2 are dissolved in 470 ml of methanol, and 30 ml of a 2.4 n hydrochloric acid solution in methanol and 4 g of a 10% palladium-on-carbon catalyst are added to the solution. Hydrogen is bubbled through the mixture for one hour, thereafter the catalyst is filtered off and the filtrate is evaporated. The residue is triturated with ether, and the resulting 20 g of crude product is recrystallized from a mixture of methanol and ether. 16.05 g (81%) of H-Ile-Pro-NH2.HCl are obtained; m.p.: 135°-140° C., Rf4 =0.15.

reactant | Z-Ile-Pro-NH2 | 66.5 mmoles, 24.0 g | N([C@@H]([C@@H](C)CC)C(=O)N1[C@H](C(=O)N)CCC1)C(=O)OCC1=CC=CC=C1 | C19H27N3O4
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 470 ml | CO | CH4O
catalyst | palladium-on-carbon | [Pd] | Pd
product | H-Ile-Pro-NH2.HCl | 16.05 g, 81% | N[C@@H]([C@@H](C)CC)C(=O)N1[C@H](C(=O)N)CCC1.Cl | InChI=1S/C11H21N3O2.ClH/c1-3-7(2)9(12)11(16)14-6-4-5-8(14)10(13)15;/h7-9H,3-6,12H2,1-2H3,(H2,13,15);1H/t7-,8-,9-;/m0./s1
